US09334286B2
Preparation 39: 3-(4-(3-Chloroisoquinolin-6-yl)-1H-pyrazol-1-yl)propane-1,2-diol
To a solution of 3-chloro-6-(1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-1H-pyrazol-4-yl)isoquinoline (Preparation 29, 40 mg, 0.116 mmol) in THF (6 mL) at 0° C. was added hydrochloric acid (2.5M, 0.30 mL) and the reaction was stirred at room temperature for 16 hours. The solution was diluted with DCM, washed with saturated NaHCO3 solution, dried over Na2SO4 and concentrated in vacuo to afford the title compound as a yellow oil that was used directly in the next step (23 mg, 65%).

reactant | 3-chloro-6-(1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-1H-pyrazol-4-yl)isoquinoline | 0.116 mmol, 40 mg | ClC=1N=CC2=CC=C(C=C2C1)C=1C=NN(C1)CC1OC(OC1)(C)C | C18H18ClN3O2
reactant | hydrochloric acid | 2.5M, 0.30 mL | Cl | ClH
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-(4-(3-Chloroisoquinolin-6-yl)-1H-pyrazol-1-yl)propane-1,2-diol | ClC=1N=CC2=CC=C(C=C2C1)C=1C=NN(C1)CC(CO)O | C15H14ClN3O2
